US06720320B2
(S)-2-(5-ethyloxazol-2-yl)-4-glycidyloxybenzo(b)furan
By the reactions in the same manner as in Starting Material Synthesis Example 1 using 2-(5-ethyloxazol-2-yl)-4-hydroxybenzo(b)furan (1.10 g), (S)-glycidyl nosylate (1.24 g) and potassium carbonate (1.99 g), a crude product of the title compound (1.36 g) was obtained as pale-yellow crystals.

reactant | 2-(5-ethyloxazol-2-yl)-4-hydroxybenzo(b)furan | 1.10 g | C(C)C1=CN=C(O1)C1=CC2=C(O1)C=CC=C2O | C13H11NO3
reactant | (S)-glycidyl nosylate | 1.24 g | S(=O)(=O)(OC[C@@H]1CO1)C1=CC=C([N+](=O)[O-])C=C1 | C9H9NO6S
reactant | potassium carbonate | 1.99 g | C([O-])([O-])=O.[K+].[K+]
product | (S)-2-(5-ethyloxazol-2-yl)-4-glycidyloxybenzo(b)furan | 1.36 g | C(C)C1=CN=C(O1)C1=CC2=C(O1)C=CC=C2OC[C@@H]2CO2 | C16H15NO4
